US03962259
1,3-Dihydro-1'-(3-hydroxy-3-phenylpropyl)spiro[isobenzofuran-1,4'-piperidine]-3-one
A solution of 2.5 g. of 1'-(2-benzoylethyl)-1,3-dihydrospiro[isobenzofuran-1,4'-piperidine]-3-one, 30 ml. of methanol, 10 ml. of tetrahydrofuran, and 0.35 g. of sodium borohydride is stirred for 4 hours, diluted with water, and extracted with chloroform. The chloroform solution is dried over sodium sulfate and concentrated to a solid. Recrystallization from benzene yields colorless crystals, m.p. 144°-146°.

reactant | 1'-(2-benzoylethyl)-1,3-dihydrospiro[isobenzofuran-1,4'-piperidine]-3-one | C(C1=CC=CC=C1)(=O)CCN1CCC2(CC1)OC(C1=CC=CC=C12)=O | C21H21NO3
reactant | methanol | CO | CH4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 1,3-Dihydro-1'-(3-hydroxy-3-phenylpropyl)spiro[isobenzofuran-1,4'-piperidine]-3-one | OC(CCN1CCC2(CC1)OC(C1=CC=CC=C12)=O)C1=CC=CC=C1 | C21H23NO3
